US07560571B2
To a suspension of 0.009 g (0.081 mmol) of 10% palladium-on-charcoal in 20 cm3 of methanol is added, at a temperature in the region of 20° C., 0.04 g (0.172 mmol) of 5-(4-nitrophenyl)-3H-imidazole-4-carboxamide. After hydrogenating for 3 hours in an autoclave under 3 bar of hydrogen, at a temperature in the region of 25° C., the reaction mixture is filtered. The catalyst is rinsed with twice 2 cm3 of methanol and the filtrate is then concentrated to dryness under reduced pressure (2.7 kPa) to give 0.034 g of 5-(4-aminophenyl)-3H-imidazole-4-carboxamide in the form of a brown solid; EI: m/z=202: M+; Cl: m/z=203: [M+H]+; ES+: m/z=203: [M+H]+; ES−: m/z=201: [M−H]−.

reactant | 5-(4-nitrophenyl)-3H-imidazole-4-carboxamide | 0.172 mmol, 0.04 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(NC=N1)C(=O)N | C10H8N4O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 cm3 | CO | CH4O
catalyst | palladium-on-charcoal | 0.081 mmol, 0.009 g | [Pd] | Pd
product | 5-(4-aminophenyl)-3H-imidazole-4-carboxamide | 0.034 g | NC1=CC=C(C=C1)C1=C(NC=N1)C(=O)N | C10H10N4O
